US05905140
Preparation of 1-tetradecanoylbenzotriazole.
1-hexadecanoylbenzotriazole, DSC 62.4° C. (recryst. from tert-butyl acetate).

reactant | 1-hexadecanoylbenzotriazole | C(CCCCCCCCCCCCCCC)(=O)N1N=NC2=C1C=CC=C2 | C22H35N3O
reactant | tert-butyl acetate | C(C)(=O)OC(C)(C)C | C6H12O2
product | 1-tetradecanoylbenzotriazole | C(CCCCCCCCCCCCC)(=O)N1N=NC2=C1C=CC=C2 | C20H31N3O
